*
* Low-Pass Filter + Limiter
*

* forces current values to be saved
.options savecurrents

******************************************

*transformer
VIN tr1 0 0 sin(0 230 50 0 0)
RS tr1 tr2 10
L1 tr2 0 1155.555555
L2 A C 20
K L1 L2 0.99999
*RL 3 0 500 

* input voltage source
*vS 1 0 0 sin(0 5 100)
*vS 1 0 0 sin(0 5 400)

*Vs A C 0 sin(0 30 50)
D1 A 1 Default
D2 C 1 Default
D3 0 A Default
D4 0 C Default

* passa-alto ordem 1 a entrada 
Ci 2 0 3.7224u
Ri 1 2 3.7224k


* positive limiter
Dp1 2 3 Default
Dp2 3 4 Default 
Dp3 4 5 Default
Dp4 5 6 Default
Dp5 6 7 Default
Dp6 7 8 Default
Dp7 8 9 Default
Dp8 9 10 Default
Dp9 10 11 Default
Dp10 11 12 Default
Dp11 12 13 Default
Dp12 13 14 Default
Dp13 14 15 Default
Dp14 15 16 Default
Dp15 16 17 Default
Dp16 17 18 Default
Dp17 18 19 Default
Dp18 19 20 Default
Dp19 20 0 Default
*Dp20 21 22 Default
*Dp21 22 23 Default
*Dp22 23 0 Default
*Dp23 24 25 Default
*Dp24 25 26 Default
*Dp25 26 27 Default
*Dp26 27 28 Default
*Dp27 28 29 Default
*Dp28 29 0 Default


* negative limiter
*Dn1 0 5 Default
*Dn2 5 6 Default
*Dn3 6 2 Default

*Envelope
De 2 F Default
Re F 0 15k
Ce F 0 15u

*low-pass
Rf F G 10k
Cf G 0 10u

.model Default D
.op
.end

.control

set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

******************************************
* analise no tempo
tran 1e-5 1.9975 1.8975

meas tran vavg AVG v(g) from=1.7975 to=1.9975
meas tran vmax MAX v(g) from=1.7975 to=1.9975
meas tran vmin MIN v(g) from=1.7975 to=1.9975

print vavg-12
print vmax-vmin
print 1/(((vavg-12)+(vmax-vmin)+1u)*(0.1*(19+4)+15+15+10+10+4+4))

******************************************
hardcopy vout.ps v(g)
echo vout_FIG
hardcopy vrect.ps v(2)
echo vrect_FIG
hardcopy venv.ps v(f)
echo venv_FIG

.endc
